US04333951
4-Phenyl-5,7-diaminoindolin-2-one
A mixture of 4.9 grams (0.014 mole) of 3-methylthio-4-phenyl-5,7-dinitroindolin-2-one, 4.2 grams (0.035 mole) of tin powder, 10 milliliters of concentrated hydrochloric acid and 50 milliliters of ethanol are refluxed for 4 hours under nitrogen. The hot mixture is filtered and the filtrate concentrated to give a solid.

reactant | 3-methylthio-4-phenyl-5,7-dinitroindolin-2-one | 0.014 mole, 4.9 grams | CSC1C(NC2=C(C=C(C(=C12)C1=CC=CC=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C15H11N3O5S
reactant | tin | 0.035 mole, 4.2 grams | [Sn] | Sn
reactant | hydrochloric acid | 10 milliliters | Cl | ClH
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | 4-Phenyl-5,7-diaminoindolin-2-one | C1(=CC=CC=C1)C1=C2CC(NC2=C(C=C1N)N)=O | C14H13N3O
